US04203883
One-thousand-two-hundred-sixty-eight parts of the prepolymer is charged to a reaction vessel and agitated. A mixture of 56 parts N,N-dimethylethanolamine and 1,385 parts water is then gradually added to the agitating prepolymer over a ten minute period, and the temperature is maintained between 30° to 33° C. Within one to two minutes after the completion of the addition of the N,N-dimethylethanolamine and water, a mixture of 20 parts 1-amino-3-aminomethyl-3,5,5-trimethylcyclohexane and 8 parts diethylenetriamine and 163 parts water is gradually added to the prepolymer dispersion over a four to five minute period, and the temperature is maintained between 33° to 36° C. to form a colloidally dispersed urea-urethane polymer. The acetone and methyl ethyl ketone are then distilled from the dispersion to yield a very stable, essentially organic solvent-free, aqueous colloidal polyurea-urethane ionomer dispersion with the following analysis: nonvolatile content of 32 percent by weight, pH of 9.1, and a viscosity of about 214 Stokes. The colloidal dispersion has an almost perfectly clear appearance and is infinitely dilutable with water. Films from this product can be cured under ambient conditions to yield very high gloss films, and optimum physical properties are attained when the films are cured at elevated temperatures. Twenty-five mil dry films cured at 70° C. overnight attain a Shore hardness of D 70 and exhibit an ultimate tensile strength of about 5,000 psi and elongation at break of about 360 percent. A 3 mil wet film attains its maximum physical properties when cured at 90° C. for less than one-half hour. The heat cured films have very good resistance to water spotting.

reactant | N,N-dimethylethanolamine | CN(CCO)C | C4H11NO
reactant | 1-amino-3-aminomethyl-3,5,5-trimethylcyclohexane | NC1CC(CC(C1)(C)C)(C)CN | C10H22N2
reactant | diethylenetriamine | NCCNCCN | C4H13N3
reactant | water | O | H2O
product | urea urethane | NC(=O)N.NC(=O)OCC | InChI=1S/C3H7NO2.CH4N2O/c1-2-6-3(4)5;2-1(3)4/h2H2,1H3,(H2,4,5);(H4,2,3,4)
